US05624935
1-Methylindolin-2-ylmethanol
A procedure similar to that described in Preparation 2 was repeated, except that 8.0 g of methyl 1-methyl-indoline-2-carboxylate (prepared as described in Preparation 5), 1.91 g of lithium aluminum hydride and 250 ml of tetrahydrofuran were used, to give 6.85 g of the title compound having Rf=0.35 (on silica gel thin layer chromatography using a 2:1 by volume mixture of hexane and ethyl acetate as the developing solvent).

reactant | methyl 1-methyl-indoline-2-carboxylate | 8.0 g | CN1C(CC2=CC=CC=C12)C(=O)OC | C11H13NO2
reactant | lithium aluminum hydride | 1.91 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 1-Methylindolin-2-ylmethanol | 6.85 g | CN1C(CC2=CC=CC=C12)CO | C10H13NO
